US05712274
(±)-4-(4-Chlorophenyl)-2,3,9-trimethyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine-6-acetic acid (1.7 g) and triethylamine (0.65 ml) are added to a mixed solvent of dimethylformamide (20 ml) and tetrahydrofuran (10 ml). The mixture is cooled to -5° C. and pivaloyl chloride (0.57 ml) is dropwise added at said temperature. Ten minutes later, a solution of 4-aminopyridine (0.43 g) in dimethylformamide (2 ml) and tetrahydrofuran (2 ml) is dropwise added at said temperature, and the mixture is stirred at room temperature for 2 hours. Water is added to the reaction mixture, and the mixture is extracted with ethyl acetate, washed with water and dried over anhydrous magnesium sulfate. The solvent is distilled away and the residue is recrystallized from isopropyl alcohol/isopropyl ether to give 1.29 g of (±)-N-(4-pyridyl)-4-(4-chlorophenyl)-2,3,9-trimethyl-6H-thieno[3,2-f][1,2,4]triazolo-[4,3-a][1,4]diazepine-6-acetamide, melting point 237°-239° C.

reactant | (±)-4-(4-Chlorophenyl)-2,3,9-trimethyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine-6-acetic acid | 1.7 g | ClC1=CC=C(C=C1)C1=NC(C=2N(C3=C1C(=C(S3)C)C)C(=NN2)C)CC(=O)O | C19H17ClN4O2S
reactant | triethylamine | 0.65 ml | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 0.57 ml | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | 4-aminopyridine | 0.43 g | NC1=CC=NC=C1 | C5H6N2
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | (±)-N-(4-pyridyl)-4-(4-chlorophenyl)-2,3,9-trimethyl-6H-thieno[3,2-f][1,2,4]triazolo-[4,3-a][1,4]diazepine-6-acetamide | 1.29 g | N1=CC=C(C=C1)NC(CC1C=2N(C3=C(C(=N1)C1=CC=C(C=C1)Cl)C(=C(S3)C)C)C(=NN2)C)=O | C24H21ClN6OS
